US07576062B2
(2E)-4-(1-(tert-Butoxycarbonylamino)cyclobutyl)but-2-enoic acid was synthesized starting with (1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid analogously to the synthesis of (2E)-5-(tert-butoxycarbonylamino)-5-methylhex-2-enoic acid starting with of 3-tert-butoxycarbonylamino-3-methylbutanoic acid.

reactant | (1-(tert-butoxycarbonylamino)cyclobutyl)acetic acid | C(C)(C)(C)OC(=O)NC1(CCC1)CC(=O)O | C11H19NO4
reactant | 3-tert-butoxycarbonylamino-3-methylbutanoic acid | C(C)(C)(C)OC(=O)NC(CC(=O)O)(C)C | C10H19NO4
product | (2E)-4-(1-(tert-Butoxycarbonylamino)cyclobutyl)but-2-enoic acid | C(C)(C)(C)OC(=O)NC1(CCC1)C/C=C/C(=O)O | C13H21NO4
